US05180742
In acetic acid (17 ml) was dissolved 1.70 g (3.92 mmole) of methyl 7-[4-(1-imidazolyl)phenyl]-7-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)heptanoate, and concentrated hydrochloric acid (7.8 ml) was added to the solution, followed by stirring at 100° C. for 1 hour. The solvent was distilled off, and acetone was added to the residue, followed by concentration under reduced pressure. The crystals, which separated out, were collected by filtration and recrystallized from ethanol/ethyl ether to give 1.30 g (73%) of 7-[4-(1-imidazolyl)phenyl]-7-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)heptanoic acid.hydrochloride.

reactant | methyl 7-[4-(1-imidazolyl)phenyl]-7-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)heptanoate | 3.92 mmole, 1.70 g | N1(C=NC=C1)C1=CC=C(C=C1)C(CCCCCC(=O)OC)C=1C(C(=C(C(C1C)=O)C)C)=O | C26H30N2O4
reactant | hydrochloric acid | 7.8 ml | Cl | ClH
solvent | acetic acid | 17 ml | C(C)(=O)O | C2H4O2
product | 7-[4-(1-imidazolyl)phenyl]-7-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)heptanoic acid.hydrochloride | 1.30 g, 73% | Cl.N1(C=NC=C1)C1=CC=C(C=C1)C(CCCCCC(=O)O)C=1C(C(=C(C(C1C)=O)C)C)=O | InChI=1S/C25H28N2O4.ClH/c1-16-17(2)25(31)23(18(3)24(16)30)21(7-5-4-6-8-22(28)29)19-9-11-20(12-10-19)27-14-13-26-15-27;/h9-15,21H,4-8H2,1-3H3,(H,28,29);1H
